US05620969
A slurry of (6R)-trans-3-chloromethyl-7-[(2,5-dichlorophenyl)thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester (10.0 g, 15.8 mmol) in CH2Cl2 (200 mL) at 0° C. was treated with anisole (24 mL) and then trifluoroacetic acid (80 mL). The resulting solution was stirred for 1 h at 0° C. and then concentrated under reduced pressure. The residue was stirred with Et2O, and the resulting solid was collected by filtration to give 5.20 g of (6R)-trans-3-chloromethyl-7-[(2,5-dichlorophenyl)-thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a white solid (70% yield), m.p. 125° C. 1H NMR (300 MHz, DMSO-d6) δ3.51 (d, J=18 Hz, 1H), 3.70 (d, J=18 Hz, 1H), 3.91 (s, 2H), 4.52 (d, J=11 Hz, 1H), 4.58 (d, J=11 Hz, 1H), 5.13 (d, J=5 Hz, 1H), 5.70 (dd, J=5, 8 Hz, 1H), 7.24 (dd, J=2, 8 Hz, 1H), 7.47 (dd, J=2, 8 Hz, 2H), 9.28 (d, J=8 Hz, 1H).

reactant | (6R)-trans-3-chloromethyl-7-[(2,5-dichlorophenyl)thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester | 15.8 mmol, 10.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2SCC1CCl)NC(CC1=C(C=CC(=C1)Cl)Cl)=S)=O | C29H23Cl3N2O3S2
reactant | anisole | 24 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (6R)-trans-3-chloromethyl-7-[(2,5-dichlorophenyl)-thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 5.20 g, 70% yield | ClCC1=C(N2C([C@H]([C@H]2SC1)NC(CC1=C(C=CC(=C1)Cl)Cl)=S)=O)C(=O)O | C16H13Cl3N2O3S2
